US08071592B2
6-Chloro-4-(2-propen-1-yl)-1,2,4-benzotriazin-3(4H)-one 1-oxide (104 mg, 0.438 mmol) was dissolved in 1,4-dioxane (4 ml) and water (2 ml). Sodium periodate (234 mg, 1.096 mmol) was added, followed by osmium tetroxide (0.09 ml of 4% aqueous solution). The mixture stirred at rt for 6 h, and then extracted with 20% MeOH/DCM (3×100 ml). The organic extracts were combined, dried over anhydrous magnesium sulphate, filtered and evaporated under reduced pressure to give (6-Chloro-1-oxido-3-oxo-1,2,4-benzotriazin-4(3H)-yl)acetaldehyde as an impure yellow oil (89 mg, 85%).

reactant | 6-Chloro-4-(2-propen-1-yl)-1,2,4-benzotriazin-3(4H)-one 1-oxide | 0.438 mmol, 104 mg | ClC=1C=CC2=C(N(C(N=[N+]2[O-])=O)CC=C)C1 | C10H8ClN3O2
reactant | Sodium periodate | 1.096 mmol, 234 mg | I(=O)(=O)(=O)[O-].[Na+]
solvent | 1,4-dioxane | 4 ml | O1CCOCC1 | C4H8O2
solvent | water | 2 ml | O | H2O
catalyst | osmium tetroxide | 0.09 ml | [Os](=O)(=O)(=O)=O
product | (6-Chloro-1-oxido-3-oxo-1,2,4-benzotriazin-4(3H)-yl)acetaldehyde | 89 mg, 85% | ClC=1C=CC2=C(N(C(N=[N+]2[O-])=O)CC=O)C1 | C9H6ClN3O3
